US08466201B2
2-Chloro-N-(2-hydroxyethyl)-5-nitro-benzenesulfonamide (IV)
The crude N-[2-(tert-butyldiphenylsilanyloxy)-ethyl]-2-chloro-5-nitro-benzenesulfonamide obtained above (theoretical 8.09 g) was dissolved in tetrahydrofuran (50 ml) and a 1M solution of tetrabutlyammonium fluoride in tetrahydrofuran (17.2 ml, 17.2 mmol) was added in one portion. The reaction was stirred at room temperature for 2 h then diluted with ethyl acetate (30 ml) and brine (30 ml), the organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The reaction was purified by column chromatography using hexane: ethyl acetate as eluent to afford the named product (3.44 g, 79% over 2 steps); Rf (ethyl acetate:hexane 1:1) 0.11, LCMS Rt=2.85 min, m/z (ES−) 279 (M−H).

reactant | N-[2-(tert-butyldiphenylsilanyloxy)-ethyl]-2-chloro-5-nitro-benzenesulfonamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCNS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C24H27ClN2O5SSi
reactant | tetrabutlyammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | brine | 30 ml | [Cl-].[Na+].O
solvent | tetrahydrofuran | 17.2 mmol, 17.2 ml | O1CCCC1 | C4H8O
product | 2-Chloro-N-(2-hydroxyethyl)-5-nitro-benzenesulfonamide | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)NCCO | C8H9ClN2O5S
